US04695571
N-(4-Fluorophenyl)-1-ethyl-2-oxo-2,3-dihydropyrano[2,3-f]indole-3-carboxamide (2, R1 =C2H5, R2 =4-fluorophenyl, R3, R4 =H and n=2)
To a slurry of 128 mg. (3.2 mmoles) of sodium hydride (washed with petroleum ether) in 4 ml. of dimethylformamide was added 500 mg. (2.3 mmoles) of 1-ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole followed after 15 minutes of stirring by 0.36 ml. (3.2 mmoles) of 4-fluorophenylisocyanate. The reaction mixture was allowed to stir at room temperature for 30 minutes, and was then added to a mixture of dichloromethane (50 ml.) and ice water (50 ml.). The aqueous layer was extracted with 35 ml. of dichloromethane and was then acidified with 4N hydrochloric acid. The acidified layer was extracted with fresh dichloromethane, and the organic phase separated, dried over magnesium sulfate and concentrated under vacuum to dryness, 1.6 g. The residue was taken up in ethyl acetate, washed with a brine solution and dried over magnesium sulfate. Removal of the solvent gave 709 mg. of crude product. Recrystallization from dichloromethane-diisopropyl ether gave 490 mg. (60% yield) of product, m.p. 212°-214° C.

reactant | sodium hydride | 3.2 mmoles | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole | 2.3 mmoles | C(C)N1C(CC2=CC3=C(C=C12)C=CCO3)=O | C13H13NO2
reactant | 4-fluorophenylisocyanate | 3.2 mmoles | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(4-Fluorophenyl)-1-ethyl-2-oxo-2,3-dihydropyrano[2,3-f]indole-3-carboxamide | 60% yield | FC1=CC=C(C=C1)NC(=O)C1C(N(C2=CC3=C(C=C12)OCC=C3)CC)=O | C20H17FN2O3
